US03996381
EXAMPLE 12. 3-BROMO-4-DIMETHYLAMINO-α-METHYLPHENETHYLAMINE DIHYDROCHLORIDE (METHOD C)
To a mixture of 2.51 g of 4-dimethylamino-α-methylphenethylamine dihydrochloride and 5.0 g of anhydrous sodium acetate in 50 ml of acetic acid is added dropwise with stirring a solution of 0.51 ml of bromine in 50 ml of acetic acid. The mixture is stirred at room temperature for 2 hours. The solvent is evaporated and the residue dissolved in 200 ml of water. The solution is alkalized with sodium hydroxide and extracted with ether. The ether extract is dried over anhydrous sodium sulphate and acidified with hydrogen chloride in ether. The precipitate is filtered off and recrystallized from ethanol-ethyl acetate. Yield: 2.3 g, m.p. 190°-191°.

reactant | 4-dimethylamino-α-methylphenethylamine dihydrochloride | 2.51 g | Cl.Cl.CN(C1=CC=C(CC(C)N)C=C1)C
reactant | sodium acetate | 5.0 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 0.51 ml | BrBr | Br2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 3-BROMO-4-DIMETHYLAMINO-α-METHYLPHENETHYLAMINE DIHYDROCHLORIDE | Cl.Cl.BrC=1C=C(CC(C)N)C=CC1N(C)C | InChI=1S/C11H17BrN2.2ClH/c1-8(13)6-9-4-5-11(14(2)3)10(12)7-9;;/h4-5,7-8H,6,13H2,1-3H3;2*1H
